US04966622
P. 1.2. N-(2,5-dichlorophenyl)-N-(4,6-dimethylpyrimidin-2-yl)-urea
4.0 g (0.012 mole) of N-chlorocarbonyl-N-(4,6-dimethylpyrimidin-2-yl)-2,5-dichloroaniline are dissolved in 50 ml of chloroform. An excess of ammonia gas is introduced into the solution. When the exothermic reaction has subsided, the reaction mixture is washed twice with water, dried with magnesium sulfate and concentrated by evaporation.

reactant | N-chlorocarbonyl-N-(4,6-dimethylpyrimidin-2-yl)-2,5-dichloroaniline | 0.012 mole, 4.0 g | ClC(=O)N(C1=C(C=CC(=C1)Cl)Cl)C1=NC(=CC(=N1)C)C | C13H10Cl3N3O
reactant | ammonia | N | H3N
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | N-(2,5-dichlorophenyl)-N-(4,6-dimethylpyrimidin-2-yl)-urea | ClC1=C(C=C(C=C1)Cl)N(C(=O)N)C1=NC(=CC(=N1)C)C | C13H12Cl2N4O
